US07432270B2
Methyl((S)-1-{1-[2-(3-methyl-[1,2,4]oxadiazol-5-yl)-phenyl]-methanoyl}-piperidin-2-ylmethyl)-carbamic acid dimethyl-ethyl ester
((S)-1-{1-[2-(3-Methyl-[1,2,4]oxadiazol-5-yl)-phenyl]-methanoyl}-piperidin-2-ylmethyl)-carbamic acid tert butyl ester (0.4 g) in tetrahydrofuran (5 ml) was treated with sodium hydride (0.1 g). After evolution of hydrogen had ceased iodomethane (0.1 ml) was added and the reaction stirred for 16 hours. The reaction was quenched with ice/water, extracted with diethyl ether (×3), the combined organic extracts dried and solvent removed at reduced pressure. The residue was column chromatographed (silica gel, diethyl ether) to give the title compound (0.2 g).

reactant | ((S)-1-{1-[2-(3-Methyl-[1,2,4]oxadiazol-5-yl)-phenyl]-methanoyl}-piperidin-2-ylmethyl)-carbamic acid tert butyl ester | 0.4 g | C(C)(C)(C)OC(NC[C@H]1N(CCCC1)C(=O)C1=C(C=CC=C1)C1=NC(=NO1)C)=O | C21H28N4O4
reactant | sodium hydride | 0.1 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | iodomethane | 0.1 ml | IC | CH3I
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | Methyl((S)-1-{1-[2-(3-methyl-[1,2,4]oxadiazol-5-yl)-phenyl]-methanoyl}-piperidin-2-ylmethyl)-carbamic acid dimethyl-ethyl ester | 0.2 g | CC(C)(C)OC(N(C[C@H]1N(CCCC1)C(=O)C1=C(C=CC=C1)C1=NC(=NO1)C)C)=O | C22H30N4O4
